US09421205B2
(c) tert-Butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I24)
2,4-Dichloro-5-(trifluoromethyl)pyrimidine (0.355 g, 1.64 mmol) was stirred in a 1:1 t-BuOH:1,2-dichloroethane mixture (30 mL) at 0° C. and a 1.0 M ZnCl2 solution in diethyl ether (1.87 mL, 1.87 mmol) was added cautiously over 20 minutes and the reaction was left stirring at 0° C. for 30 minutes. A solution of tert-butyl 3-(4-aminophenyl)piperidine-1-carboxylate (I23) (0.431 g, 1.56 mmol) in 1:1 t-BuOH:1,2-dichloroethane (10 mL) was added drop-wise over 15 minutes at 0° C. followed by a solution of triethylamine (0.261 μL, 1.871 mmol) in 1:1 t-BuOH:1,2-dichloroethane (10 mL). The reaction was allowed to warm to room temperature and was stirred for 60 hours. Volatiles were evaporated in vacuo and the resulting oily residue was suspended in water (200 mL), the suspension was sonicated for 30 minutes and the product was collected by filtration, the solid was washed with water (5×10 mL) and dried under a high vacuum to give the title compound (I24) (0.638 g, 90% yield) as a pale pink solid; 1H NMR (400 MHz, d6-DMSO) δ 10.62 (s, 1H), 8.78 (s, 1H), 7.61 (d, J=8.5 Hz, 2H), 7.26 (d, J=8.6 Hz, 2H), 4.05-3.87 (m, 2H), 2.94-2.63 (m, 2H), 2.57 (ddd, J=11.2, 7.7, 3.7 Hz, 1H), 1.87 (d, J=12.8 Hz, 1H), 1.75-1.54 (m, 2H), 1.51-1.35 (m, 10H). LCMS Method C: rt 6.89 min; m/z 455.3 M−H]−.

reactant | 2,4-Dichloro-5-(trifluoromethyl)pyrimidine | 1.64 mmol, 0.355 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | diethyl ether | 1.87 mmol, 1.87 mL | C(C)OCC | C4H10O
reactant | tert-butyl 3-(4-aminophenyl)piperidine-1-carboxylate | 1.56 mmol, 0.431 g | NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | triethylamine | 1.871 mmol, 0.261 μL | C(C)N(CC)CC | C6H15N
catalyst | ZnCl2 | 1.0 M | [Cl-].[Cl-].[Zn+2]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | CC(C)(C)O | C4H10O
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | tert-Butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 90% yield | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
